US04535089
4.0 g of N-(4-fluorobenzoyl)isovalerylmethylamine are dissolved in 20 ml of dimethylsulfoxide and 1.3 g of potassium hydroxide are added thereto at 5° C. to 10° C. under vigorous stirring. The mixture is further stirred for 10 minutes. 3.1 g of ethyl bromoacetate are added dropwise to the mixture at the same temperature, and said mixture is further stirred for 2 hours. After the reaction, the mixture is treated in the same manner as described in Preparation 1-(5). 3.5 g of ethyl 3-(4-fluorobenzoylamino)-3-isovalerylpropionate are thereby obtained as oil. Yield: 64.8%.

reactant | N-(4-fluorobenzoyl)isovalerylmethylamine | 4.0 g | FC1=CC=C(C(=O)NCC(CC(C)C)=O)C=C1 | C13H16FNO2
reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | ethyl bromoacetate | 3.1 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | ethyl 3-(4-fluorobenzoylamino)-3-isovalerylpropionate | 3.5 g, Yield: 64.8% | FC1=CC=C(C(=O)NC(CC(=O)OCC)C(CC(C)C)=O)C=C1 | C17H22FNO4
